* C:\Users\Gebruiker\Documents\GitHub\COPD_shirt\LTSpice\Draft1.asc
V1 4.2V 0 4.2 Rser=100m
V2 3.3V 0 3.3 Rser=50m
R1 4.2V 3.3V 1
R2 3.3V 0 1
.tran 1
.backanno
.end
